US04115116
Preparation of N,N'-diphenyl-N,N'-bis(phenylmethyl)-[1,1'-biphenyl]-4,4'-diamine
In a 1000 milliliter, round bottom, three necked flask fitted with a magnetic stirrer and a dropping funnel which is flushed with argon, is placed 500 milliliters of anhydrous dimethylsulfoxide (DMSO). Then 100.8 grams (1.8 moles) of powdered potassium hydroxide is added to the flask. The mixture is then stirred for 15 minutes. Then 100.8 grams (0.3 moles) of N,N'-diphenyl-[1,1'-biphenyl]-4,4'-diamine is added to the mixture. The mixture is now a deep red heterogeneous mixture. The mixture is then stirred at room temperature for 2 hours. Then 200 grams (1.2 moles) of benzyl bromide is added portionwise to the mixture. The mixture is intermittently cooled in order to maintain the temperature between 20° C. and 40° C. The mixture is then stirred for 2 hours. The mixture becomes brown in color. The mixture is then poured into 1000 milliliters of benzene. The mixture is then extracted with water 4 times using about 2.5 liters of water each time. The mixture is then dried with magnesium sulfate. The benzene is then evaporated from the mixture leaving a black sludge residue. To this add 1 liter of acetone and heat to reflux for about 10 minutes. Let the mixture cool and filter the red solid from the mixture. Then column chromatrograph using Woelm neutral alumina, evaporate eluent. Then wash residue with methanol and dry. This yields 90 grams of white crystals of N,N'-diphenyl-N,N'-bis(phenylmethyl)-[1,1'-biphenyl]-4,4'-diamine with a melting point of from 141° C. to 142° C. Additional products may be recovered from the column which equals 35 grams. The total yield is 81 percent.

reactant | potassium hydroxide | 1.8 moles, 100.8 grams | [OH-].[K+]
reactant | N,N'-diphenyl-[1,1'-biphenyl]-4,4'-diamine | 0.3 moles, 100.8 grams | C1(=CC=CC=C1)NC1=CC=C(C=C1)C1=CC=C(C=C1)NC1=CC=CC=C1 | C24H20N2
reactant | benzyl bromide | 1.2 moles, 200 grams | C(C1=CC=CC=C1)Br | C7H7Br
reactant | benzene | 1000 milliliters | C1=CC=CC=C1 | C6H6
reactant | acetone | 1 liter | CC(=O)C | C3H6O
product | N,N'-diphenyl-N,N'-bis(phenylmethyl)-[1,1'-biphenyl]-4,4'-diamine | yield is 81 percent | C1(=CC=CC=C1)N(C1=CC=C(C=C1)C1=CC=C(C=C1)N(CC1=CC=CC=C1)C1=CC=CC=C1)CC1=CC=CC=C1 | C38H32N2
